US06291399B1
Synthesis of (E) methyl methoxyimino-[2-(3-methoxyimino-2,3-dihydrobenzofuran-6-yloxymethyl)-phenyl]acetate (a-4):
3.4 g of (E) methyl methoxyimino-(2-bromomethylphenyl)acetate was added to 9.0 g of potassium carbonate and 1.8 g of 3-methoxyimino-6-hydroxy-2,3-dihydrobenzofuran in 30 ml of N,N-dimethylformamide, and they were reacted at room temperature for 6 hours. After the completion of the reaction, the reaction liquid was poured in ice/water. After the extraction with ethyl acetate, the extract was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by the silica gel chromatography (hexane:ethyl acetate) to obtain 3.0 g of the title compound (having a m. p. of 108-110° C. and 1H-NMR data shown in the following table).

reactant | methyl methoxyimino-(2-bromomethylphenyl)acetate | CON=C(C(=O)OC)C1=C(C=CC=C1)CBr | C11H12BrNO3
reactant | potassium carbonate | 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxyimino-6-hydroxy-2,3-dihydrobenzofuran | 1.8 g | CON=C1COC2=C1C=CC(=C2)O | C9H9NO3
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl methoxyimino-[2-(3-methoxyimino-2,3-dihydrobenzofuran-6-yloxymethyl)-phenyl]acetate | 3.0 g | CON=C(C(=O)OC)C1=C(C=CC=C1)COC1=CC2=C(C(CO2)=NOC)C=C1 | C20H20N2O6
